US05128355
Part F: Preparation of 1-[4-(2-Carboxybenzoamido)-benzyl]-4-chloro-5-hydroxymethyl-2-(2-methoxyethyl)imidazole
To an acetonitrile solution (12 mL) of 1-(4-aminobenzyl)-4-chloro-5-hydroxymethyl-2-(2-methoxyethyl)imidazole (150 mg, 0.51 mmol) was added an acetonitrile solution (2 mL) of phthalic anhydride (75 mg, 0.51 mmol). After stirring overnight at room temperature a light yellow precipitate was produced. The mixture was cooled to 0°, filtered with suction onto a fine fritted funnel and the solid was washed with cold acetonitrile, chloroform and finally ether (2 mL each) to afford 180 mg (80%) of light tan solid, m.p. 185°-186° (dec.). NMR (200 MHz, CDCl3 /CD3OD) δ 8.05-6.95 (m, 8H); 5.30 (s, 2H); 4.50 (s, 2H); 3.60 (t, 2H, 5Hz); 3.25 (s, 3H); 2.8 (t, 2H, 5Hz). Mass Spec. Calcd. for C22H18ClN3O3 (M-2H2O):4.07.1037. Found: 407.1031.

reactant | 1-(4-aminobenzyl)-4-chloro-5-hydroxymethyl-2-(2-methoxyethyl)imidazole | 0.51 mmol, 150 mg | NC1=CC=C(CN2C(=NC(=C2CO)Cl)CCOC)C=C1 | C14H18ClN3O2
reactant | phthalic anhydride | 0.51 mmol, 75 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | 1-[4-(2-Carboxybenzoamido)-benzyl]-4-chloro-5-hydroxymethyl-2-(2-methoxyethyl)imidazole | C(=O)(O)C1=C(C(=O)NC2=CC=C(CN3C(=NC(=C3CO)Cl)CCOC)C=C2)C=CC=C1 | C22H22ClN3O5
